US04535183
4-Hydroxybenzofuran (4.9 g. 0.0366 M), ethyl 5-bromopentanoata (7.64 g, 0.0366 M), anhydrous potassium carbonate (5.44 g), sodium iodide (0.2 g) and 95% ethanol (20 ml) were refluxed with stirring for 4.5 hr. The cooled reaction mixture was filtered and the solid washed well with ethanol. The filtrate was evaporated to dryness and the residue partitioned between ether and water. The organic layer was separated and washed with 2N sodium hydroxide solution, water, dried (sodium sulphate) and evaporated to give ethyl 5-(4-benzofuranyloxy)pentanoata as an oil. To this oil was added 95% ethanol (130 ml) and 0.5N sodium hydroxide solution (130 ml) and the mixture stirred at room temperature (3 hr). The solution was evaporated to half-volume, diluted with water and extracted with ether. The aqueous phase was treated with charcoal, filtered and acidified with concentrated hydrochloric acid. The precipitated solid was filtered off, washed wall with water and recrystallised from ethanol-water to give 5-(4-benzofuranyloxy)pentanoic acid, m.p. 107.5° -108.5° C. (Found: C. 66.51; H, 5.90. C13H14O4 requires C, 66.65; H, 6.02%).

reactant | 4-Hydroxybenzofuran | 0.0366 M, 4.9 g | OC1=CC=CC2=C1C=CO2 | C8H6O2
reactant | potassium carbonate | 5.44 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
reactant | sodium hydroxide | 0.5N, 130 ml | [OH-].[Na+]
solvent | ethanol | 130 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(4-benzofuranyloxy)pentanoic acid | O1C=CC2=C1C=CC=C2OCCCCC(=O)O | C13H14O4
